US08133898B2
Preparation of 7-Amino-6-(aminomethyl)-5-(4-(aminomethyl)phenyl)-1,3-dimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (Compound 66)
The synthesis of title compounds started from 4-formylbenzonitrile and 6-amino-1,3-dimethylpyrimidine-2,4(1H,3H)-dione, according to the procedures described in the synthesis of Compound 56. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.06 (s, 3H) 3.53 (s, 3H) 3.56 (d, J=5.56 Hz, 2H) 4.12 (d, J=5.56 Hz, 2H) 7.22 (d, J=7.83 Hz, 2H) 7.49 (m, 4H) 7.92 (br. s., 2H) 8.37 (br. s., 2H) MS [m+H] MS [m+H] calc'd C17H20N6O2 341.38; found 341.4.

reactant | 4-formylbenzonitrile | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | 6-amino-1,3-dimethylpyrimidine-2,4(1H,3H)-dione | NC1=CC(N(C(N1C)=O)C)=O | C6H9N3O2
product | 7-Amino-6-(aminomethyl)-5-(4-(aminomethyl)phenyl)-1,3-dimethylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | NC=1C(=C(C2=C(N(C(N(C2=O)C)=O)C)N1)C1=CC=C(C=C1)CN)CN | C17H20N6O2
